US08071766B2
(R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-((2R,3S,4S)-3,4-dihydroxytetrahydrofuran-2-yl)methyl oxime (Compound 51)
To a solution of (R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-((2R,3S,4R)-3,4-dihydroxy-5-methoxytetrahydrofuran-2-yl)methyl oxime (10.5 mg, 0.02 mmol) in CH2Cl2 (1 mL) was added Et3SiH (16 μL, 0.05 mmol) and BF3.Et2O (8.0 μL, 0.05 mmol) at 0° C. under N2 atmosphere. The reaction mixture was stirred overnight at r.t. and poured on crushed ice. The resultant slurry was extracted with CH2Cl2 and washed with brine. Work-up and purification by Preparative LCMS afforded the title compound (3.0 mg, 30%) as light brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.50 (s, 3H) 2.77 (dd, J=16.04, 6.95 Hz, 1H) 3.00 (dd, J=16.04, 5.18 Hz, 1H) 3.15-3.26 (m, 2H) 3.35-3.42 (m, 2H) 3.83 (s, 3H) 3.85-3.94 (m, 2H) 4.38-4.41 (m, 1H) 4.93-5.13 (m, 1H) 6.82 (d, J=9.09 Hz, 1H) 7.16 (d, J=7.07 Hz, 1H) 7.21-7.30 (m, 2H) 7.45 (dd, J=8.46, 5.94 Hz, 1H) 7.86 (dd, J=8.34, 7.33 Hz, 1H). MS (ES) [M+H] calculated for C25H28FN6O5, 511.51. found 511.20.

reactant | (R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-((2R,3S,4R)-3,4-dihydroxy-5-methoxytetrahydrofuran-2-yl)methyl oxime | 0.02 mmol, 10.5 mg | O[C@@H]1[C@H](OC([C@@H]1O)OC)CO\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC | C26H29FN6O6
reactant | Et3SiH | 0.05 mmol, 16 μL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.05 mmol, 8.0 μL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (R,Z)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-((2R,3S,4S)-3,4-dihydroxytetrahydrofuran-2-yl)methyl oxime | 3.0 mg, 30% | O[C@@H]1[C@H](OC[C@@H]1O)CO\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC | C25H27FN6O5
